US04705853
2,3-Dihydro-2-[2-[[2-(4-methoxyphenyl)ethyl]methylamino]ethyl]-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione
To 40 ml of absolute ethanol was added 5.0 g (0.0195 mole) of 2-(2-chloroethyl-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione and 3.65 g (0.022 mole) of 4-methoxy-N-methylbenzene-ethanamine and 2.5 g (0.0195 mole) of diisopropylethylamine. After ~6 hr heating at reflux 3.15 g (0.022 mole) of 4-methoxy-N-methylbenzeneethanamine was added and heating was continued overnight. After removing the solvent by rotary evaporation, the residue was taken up in 100 ml of methylene chloride and the solution was washed with 2×50 ml of 1N sodium hydroxide and 50 ml of water, dried over sodium sulfate and filtered. The solution was then treated with 10 ml of acetic anhydride overnight. The methylene chlordide was extracted with 3×100 ml of hydrochloric acid. The combined aqueous extracts were washed with 2×100 ml of chloroform made basic with concentrated sodium hydroxide and extracted into 3×100 ml of chloroform. The organic layer was dried over sodium sulfate, filtered, and concentrated by rotary evaporation to give 2.8 g (37%) of yellow, analytically pure crystals, m.p. 75°-78° C.

reactant | 2-chloroethyl-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | 4-methoxy-N-methylbenzene-ethanamine | 0.022 mole, 3.65 g | COC1=CC=C(C=C1)CCNC | C10H15NO
reactant | diisopropylethylamine | 0.0195 mole, 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxy-N-methylbenzeneethanamine | 0.022 mole, 3.15 g | COC1=CC=C(C=C1)CCNC | C10H15NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,3-Dihydro-2-[2-[[2-(4-methoxyphenyl)ethyl]methylamino]ethyl]-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | COC1=CC=C(C=C1)CCN(CCC1OC2=C(C(N(C1)C)=S)C=CC=N2)C | C21H27N3O2S
